US07109229B2
To a 60% dispersion of sodium hydride in mineral oil (0.80 g, 21 mmol), suspended in DMF (50 mL), was added 7-bromoindole (2.0 g, 10 mmol) in DMF (15 mL) followed by a solution of iodoethane (1.64 mL, 26.3 mmol). After 20 minutes, the mixture was quenched with saturated NaHCO3, and poured into EtOAc. The organic layer which was separated, washed with saturated NaHCO3, dried (MgSO4) and concentrated to afford 1-ethyl-7-bromoindole as a brown oil which was used without further purification.

reactant | sodium hydride | [H-].[Na+]
reactant | 7-bromoindole | 10 mmol, 2.0 g | BrC=1C=CC=C2C=CNC12 | C8H6BrN
reactant | iodoethane | 26.3 mmol, 1.64 mL | ICC | C2H5I
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | 1-ethyl-7-bromoindole | C(C)N1C=CC2=CC=CC(=C12)Br | C10H10BrN
